US09029391B2
4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinoline-3-carbaldehyde
To a solution of 4-(3,4-Difluoro-phenyl)-3-hydroxymethyl-2-methyl-2H-isoquinolin-1-one (500 mg, 1.66 mmol) in CHCl3 (10 ml) was added MnO2 (1.87 g, 21.6 mmol). The reaction mixture was stirred at 70° C. overnight under N2. TLC showed SM was consumed, cooled to RT, the reaction mixture was filtered, and the filtrate was concentrated to dryness to afford title product which was used for the next step directly. (m=460.0 mg, yield=92.6%.) 1HNMR: (400 MHz, d6-DMSO) δ 3.89 (s, 3H), 7.09 (t, J=6.0 Hz, 1H), 7.15 (d, J=6.8 Hz, 1H), 7.24 (m, 1H), 7.36 (dd, J1=9.6 Hz, J2=15.6 Hz, 1H), 7.55 (m, 2H), 8.55 (d, J=8.0 Hz, 1H), 9.61 (s, 1H).

reactant | 4-(3,4-Difluoro-phenyl)-3-hydroxymethyl-2-methyl-2H-isoquinolin-1-one | 1.66 mmol, 500 mg | FC=1C=C(C=CC1F)C1=C(N(C(C2=CC=CC=C12)=O)C)CO | C17H13F2NO2
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 21.6 mmol, 1.87 g | O=[Mn]=O
product | 4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinoline-3-carbaldehyde | yield=92.6% | FC=1C=C(C=CC1F)C1=C(N(C(C2=CC=CC=C12)=O)C)C=O | C17H11F2NO2
